US07514583B2
1,4-Bis(3,4-dihydroxybenzyl)piperazine (DC-0009)
1,4-Bis(3,4-dimethoxybenzyl)piperazine (5 g, 12.95 mmol) was combined with hydrobromic acid (50 ml of 48% w/w solution in water) and the solution heated slowly over 1 hour to 145° C. Reaction was maintained at 145° C. for 12 h at which time TLC revealed disappearance of starting material. The cooled solution was diluted with water (200 ml), carefully neutralized with saturated aqueous sodium hydrogen carbonate, and ethyl acetate (100 ml) added. The crude aqueous solvent mixture was filtered through Celite and the ethyl acetate layer separated. The aqueous layer was extracted with ethyl acetate (2×50 ml), and the combined extracts washed with water (50 ml), and dried (Na2SO4). The solvent was removed under reduced pressure and the residue recrystallized from toluene and methyl ethyl ketone to afford the product, DC-0009, 100 mg (98%, pure by HPLC analysis).

reactant | 1,4-Bis(3,4-dimethoxybenzyl)piperazine | 12.95 mmol, 5 g | COC=1C=C(CN2CCN(CC2)CC2=CC(=C(C=C2)OC)OC)C=CC1OC | C22H30N2O4
reactant | hydrobromic acid | 50 ml | Br | BrH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | 1,4-Bis(3,4-dihydroxybenzyl)piperazine | OC=1C=C(CN2CCN(CC2)CC2=CC(=C(C=C2)O)O)C=CC1O | C18H22N2O4
